US06943159B1
2-Cyclohexyl-4-oxo-1,2,3,4-tetrahydroquinazoline
Anthranilamide was transformed by Method G (using cyclohexanecarboxaldehyde). M.p. 172-174° C.

reactant | Anthranilamide | C(C=1C(N)=CC=CC1)(=O)N | C7H8N2O
reactant | cyclohexanecarboxaldehyde | C1(CCCCC1)C=O | C7H12O
product | 2-Cyclohexyl-4-oxo-1,2,3,4-tetrahydroquinazoline | C1(CCCCC1)C1NC2=CC=CC=C2C(N1)=O | C14H18N2O
